US07652008B2
(8R*,9S*)-9-[(2-cyclohexylethyl)amino]-7,7-dimethyl-8,9-dihydro-7H-pyrano[2,3-g]quinoxalin-8-ol
To a solution of (8R*,9S*)-9-amino-7,7-dimethyl-8,9-dihydro-7H-pyrano[2,3-g]quinoxalin-8-ol (100 mg, 0.408 mmol) in methanol (2 mL), cyclohexylmethyl aldehyde (103 mg, 0.816 mmol) was added, and the resulting mixture was stirred at room temperature for 20 minutes. Sodium cyanoborohydride (51 mg, 0.816 mmol) was added thereto, and the resulting mixture was stirred at room temperature for 1 hour. Upon the completion of the reaction, saturated sodium hydrogencarbonate aqueous solution was added thereto, the resulting solution was extracted with ethyl acetate, washed with saturated sodium chloride solution, and dried over magnesium sulfate and concentrated. The resulting mixture was purified by silica gel column (hexane/ethyl acetate=2/1) to obtain the aimed product (yield: 48%).

reactant | (8R*,9S*)-9-amino-7,7-dimethyl-8,9-dihydro-7H-pyrano[2,3-g]quinoxalin-8-ol | 0.408 mmol, 100 mg | N[C@@H]1[C@H](C(OC=2C=C3N=CC=NC3=CC21)(C)C)O | C13H15N3O2
reactant | Sodium cyanoborohydride | 0.816 mmol, 51 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | (8R*,9S*)-9-[(2-cyclohexylethyl)amino]-7,7-dimethyl-8,9-dihydro-7H-pyrano[2,3-g]quinoxalin-8-ol | yield: 48% | C1(CCCCC1)CCN[C@@H]1[C@H](C(OC=2C=C3N=CC=NC3=CC21)(C)C)O | C21H29N3O2
